US07179823B1
Sodium hydride (60%, oily, 476 mg) was added to a solution of diethyl malonate (2.37 g) in tetrahydrofuran (50 ml) at 0° C., and the mixture was stirred for 30 minutes. A solution of 1-iodo-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propane (1.75 g) in tetrahydrofuran (15 ml) was added dropwise to the above mixture, which was stirred at room temperature for 13 hours. The reaction mixture was acidified with diluted hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and diethyl 2-[3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propyl]malonate (1.63 g, yield: 88%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | Sodium hydride | 476 mg | [H-].[Na+]
reactant | diethyl malonate | 2.37 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-iodo-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propane | 1.75 g | ICCCC=1C(=NN(C1)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=CC=C1 | C30H28IN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | diethyl 2-[3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propyl]malonate | 1.63 g, yield: 88% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCCC(C(=O)OCC)C(=O)OCC)C2=CC=CC=C2)C=C1 | C37H39N3O6
